US05739333
To a mixture of tetrahydrofuran (400 ml) and ethylene glycol (60 ml) is added with stirring sodium hydride (60% dispersion, 3.38 g) under ice-cooling, and thereto is added 4,6-dichloro-5-(4-methylphenyl)pyrimidine (20.0 g). The mixture is stirred under ice-cooling for 30 minutes, and then stirred at room temperature for two hours. The mixture is weakly acidified with acetic acid, and concentrated under reduced pressure. The residue is dissolved in ethyl acetate, and washed, dried, and concentrated to dryness under reduced pressure. The residue is crystallized from hexane to give 2-{6-chloro-5-(4-methylphenyl)pyrimidin-4-yloxy}ethanol (21.85 g).

reactant | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
reactant | ethylene glycol | 60 ml | C(CO)O | C2H6O2
reactant | sodium hydride | 3.38 g | [H-].[Na+]
reactant | 4,6-dichloro-5-(4-methylphenyl)pyrimidine | 20.0 g | ClC1=NC=NC(=C1C1=CC=C(C=C1)C)Cl | C11H8Cl2N2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-{6-chloro-5-(4-methylphenyl)pyrimidin-4-yloxy}ethanol | 21.85 g | ClC1=C(C(=NC=N1)OCCO)C1=CC=C(C=C1)C | C13H13ClN2O2
